US07524862B2
2.1b. 2,5-dibromo-1H-benzimidazole
4.5 g (21.12 mmol) of 5-bromo-1,3-dihydrobenzimidazol-2-one is added batchwise at 60° C. to a melt of 30.27 g (105.6 mmol) of phosphorus oxybromide and the reaction mixture is stirred for 5 hours at 110° C. Then the reaction mixture is poured onto water and the precipitate formed is filtered off. The precipitate is stirred with DIPE/acetone (4:1) and the solid is filtered off. The solid is dried in the circulating air dryer at 50° C. Yield: 3.4 g (58% of theoretical); C7H4Br2N2 (M=275.92); calc.: molpeak (M+H)+: 275/277/279; found: molpeak (M+H)+: 275/277/279; Rf value: 0.6 (silica gel, DCM/MeOH 10:1).

reactant | 5-bromo-1,3-dihydrobenzimidazol-2-one | 21.12 mmol, 4.5 g | BrC1=CC2=C(NC(N2)=O)C=C1 | C7H5BrN2O
reactant | phosphorus oxybromide | 105.6 mmol, 30.27 g | P(=O)(Br)(Br)Br | Br3OP
product | 2,5-dibromo-1H-benzimidazole | BrC1=NC2=C(N1)C=CC(=C2)Br | C7H4Br2N2
